US05215968
4-Pyridylmethyl 4-nitrophenyl carbonate
20.3 g of p-nitrophenyl chloroformate were dissolved in 150 ml of CH2Cl2 (absolute) and the solution was cooled to 0° C. under N2. 520 mg of 4-dimethylaminopyridine (DMAP) were added and 10 g of 4-hydroxymethylpyridine in 50 ml of CH2Cl2 (absolute) were then added dropwise to this solution. The mixture was stirred overnight at R.T. and the crystals which had precipitated were filtered off. The crystals were recrystallized using fresh CH2Cl2 under the influence of heat and, after cooling, were filtered off again.

reactant | p-nitrophenyl chloroformate | 20.3 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 4-hydroxymethylpyridine | 10 g | OCC1=CC=NC=C1 | C6H7NO
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 520 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-Pyridylmethyl 4-nitrophenyl carbonate | C(OCC1=CC=NC=C1)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H10N2O5
